US05627215
a) (E)-1,14-Di-cyclopropylmethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene
0.4 g (10 mmol) of sodium hydride dispersion (approx. 60%) is added, with stirring, to a solution of 1.5 g (2.5 mmol) of (E)-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene in 21.5 ml of DMF. The mixture is stirred for 15 min. at room temperature; then 1.06 ml (10 mmol) of bromomethyl-cyclopropane (approx. 90% ) are added to the reaction mixture and stirring is continued for 90 h at room temperature. Working up analogously to Example 1a) yields the title compound in the form of a colourless resin, Rf value=0.47 (silica gel/ethyl acetate:hexane (2:3)).

reactant | sodium hydride | 10 mmol, 0.4 g | [H-].[Na+]
reactant | (E)-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 2.5 mmol, 1.5 g | C(=O)(OC(C)(C)C)NCCCN(C\C=C\CN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C30H56N4O8
reactant | bromomethyl-cyclopropane | 10 mmol, 1.06 ml | BrCC1CC1 | C4H7Br
reactant | hexane | CCCCCC | C6H14
solvent | DMF | 21.5 ml | CN(C)C=O | C3H7NO
product | (E)-1,14-Di-cyclopropylmethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | C1(CC1)CN(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CC1CC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C38H68N4O8
